US07160888B2
Synthesis of 4,4-Dimethyl-7-[4-(4-naphthalen-1-yl-piperazin-1-yl)-butoxy]-3,4-dihydro-1H-[1,8]naphthyridin-2-one
7-Fluoro-4,4-dimethyl-3,4-dihydro-1H-[1,8]naphthyridin-2-one (247 mg, 1.272 mmol), 4-(4-naphthalen-1-yl-piperazin-1-yl)-butan-1-ol (365 mg, 1.285 mmol) and sodium t-butoxide (367 mg, 3.82 mmol) were combined in a dried flask 3 necked flask under N2. NMP was added and the solution was heated in an oil bath to 70° C. for 4 hours. The reaction was cooled to room temperature and poured into ice water. The solid that was collected was slurried in CH2Cl2 and ethyl acetate and purified by liquid chromatography (MPLC, gradient of 100% CH2Cl2 to 100% ethyl acetate) to give the title compound as a foam (280 mg, 0.610 mmol, 48%). MS: APCI: M+1: 459.2 (Exact Mass: 458.27).

reactant | 7-Fluoro-4,4-dimethyl-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 1.272 mmol, 247 mg | FC1=CC=C2C(CC(NC2=N1)=O)(C)C | C10H11FN2O
reactant | 4-(4-naphthalen-1-yl-piperazin-1-yl)-butan-1-ol | 1.285 mmol, 365 mg | C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCCCO | C18H24N2O
reactant | sodium t-butoxide | 3.82 mmol, 367 mg | CC(C)([O-])C.[Na+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 4,4-Dimethyl-7-[4-(4-naphthalen-1-yl-piperazin-1-yl)-butoxy]-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 0.610 mmol, 280 mg, 48% | CC1(CC(NC2=NC(=CC=C12)OCCCCN1CCN(CC1)C1=CC=CC2=CC=CC=C12)=O)C | C28H34N4O2
